US06624164B2
(3S)-N,N-Dimethylmorpholine-3-carboxamide.
A mixture of 8 g of the compound obtained in the preceding stage in 40 ml of DCM and 2 ml of DMF is cooled to 4° C., 10 ml of EtOH, 1 g of 4-dimethylaminopyridine and 15 g of 1,3-dicyclohexylcarbodiimide are successively added, and then the reaction mixture is left stirring for 18 hours at AT. The insoluble material is filtered off and the filtrate is concentrated under vacuum. The residue is taken up in DCM and the insoluble material is again filtered off. The resulting organic phase is washed with an aqueous 5% KHSO4 solution, with an aqueous 5% NaHCO3 solution, dried over Na2SO4 and the solvent is evaporated under vacuum. The residue is chromatographed on silica gel, elution being carried out with a DCM/AcOEt (95/5; v/v) mixture. 8 g of the expected product are obtained.

reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | EtOH | 10 ml | CCO | C2H6O
reactant | 1,3-dicyclohexylcarbodiimide | 15 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DCM | 40 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (3S)-N,N-Dimethylmorpholine-3-carboxamide | 8 g | CN(C(=O)[C@H]1NCCOC1)C | C7H14N2O2
